US08912176B2
Preparation of 1-cyclobutyl-4-({1-[(4-methoxycyclohexyl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane. Potency Range A
To a stirred solution of 4-methoxycyclohexane carboxylic acid (20 mg, 0.13 mmol) in DMF/DCM (1:1) (2 ml) was added HOBt (38 mg, 0.28 mmol) and HBTU (96 mg, 0.25 mmol) and the reaction mixture stirred for 15 mins at RT. 1-(Azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane (30 mg, 0.13 mmol) in DCM (1 ml) was added and the reaction mixture stirred at RT for 16 hrs. Upon completion, the reaction mixture was evaporated at reduced pressure and purified by silica gel FCC (using DCM/MeOH/NH3; 95:5:0.5 to 90:10:1 as eluent) to give the title compound as colourless oil and as a 1:1 mixture of diastereoisomers by 1H NMR spectroscopy (5.2 mg, 11% yield).

reactant | 4-methoxycyclohexane carboxylic acid | 0.13 mmol, 20 mg | COC1CCC(CC1)C(=O)O | C8H14O3
reactant | HOBt | 0.28 mmol, 38 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.25 mmol, 96 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(Azetidin-3-ylcarbonyl)-4-cyclobutyl-1,4-diazepane | 0.13 mmol, 30 mg | N1CC(C1)C(=O)N1CCN(CCC1)C1CCC1 | C13H23N3O
solvent | DMF DCM | 2 ml | CN(C)C=O.C(Cl)Cl
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-cyclobutyl-4-({1-[(4-methoxycyclohexyl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane | 11% yield | C1(CCC1)N1CCN(CCC1)C(=O)C1CN(C1)C(=O)C1CCC(CC1)OC | C21H35N3O3
